US04048191
A suspension of 2.6 g. (0.0715 mole) of ethyl 4-bromo-1-methyl-5-(p-toluoyl)pyrrole-2-acetate in 14.4 ml of 0.5N sodium hydroxide solution is heated under reflux for 30 minutes. It is then poured into dilute hydrochloride acid and the precipitated solid is filtered and air dried. Recrystallization of this precipitate from ether by addition of cyclohexane and evaporation of the ether until crystallization occurs yields as a white solid 4-bromo-1-methyl-5-(p-toluoyl)pyrrole-2-acetic acid; m.p. 155°-157° C.

reactant | ethyl 4-bromo-1-methyl-5-(p-toluoyl)pyrrole-2-acetate | 0.0715 mole | BrC=1C=C(N(C1C(=O)C1=CC=C(C=C1)C)C)CC(=O)OCC | C17H18BrNO3
reactant | hydrochloride | Cl | ClH
solvent | sodium hydroxide | 0.5N, 14.4 ml | [OH-].[Na+]
product | 4-bromo-1-methyl-5-(p-toluoyl)pyrrole-2-acetic acid | BrC=1C=C(N(C1C(=O)C1=CC=C(C=C1)C)C)CC(=O)O | C15H14BrNO3
